US05075330
2-[(2,6-Dichloro-3-methylphenyl)amino]benzoic acid is reacted with oxalyl chloride and methanol according to the procedure of Example 25 to give 2-[(2,6-dichloro-3-methylphenyl)amino]benzoic acid, methyl ester in 89% yield; mp 132°-134° C.

reactant | 2-[(2,6-Dichloro-3-methylphenyl)amino]benzoic acid | ClC1=C(C(=CC=C1C)Cl)NC1=C(C(=O)O)C=CC=C1 | C14H11Cl2NO2
reactant | oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | methanol | CO | CH4O
product | 2-[(2,6-dichloro-3-methylphenyl)amino]benzoic acid, methyl ester | 89% yield | ClC1=C(C(=CC=C1C)Cl)NC1=C(C(=O)OC)C=CC=C1 | C15H13Cl2NO2
